US07511066B2
Using a procedure similar to that of Example 26-B, methyl 2-hydroxy-4-(2-methoxyethoxy)benzoate (2.72 g, 12.02 mmol) is alkylated with 1-tert-butoxycarbonyl-4-hydroxy-piperidine (2.44 g, 12.02 mmol) to afford methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(2-methoxyethoxy)benzoate (4.41 g).

reactant | methyl 2-hydroxy-4-(2-methoxyethoxy)benzoate | 12.02 mmol, 2.72 g | OC1=C(C(=O)OC)C=CC(=C1)OCCOC | C11H14O5
reactant | 1-tert-butoxycarbonyl-4-hydroxy-piperidine | 12.02 mmol, 2.44 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
product | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(2-methoxyethoxy)benzoate | 4.41 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)OCCOC | C21H31NO7
